US08609653B2
A solution of 7-fluorochroman (4.42 g, 29.0 mmol) in acetonitrile (40 mL) at 0° C. was treated with NBS ((5.16 g, 29 mmol)) and the mixture was stirred at ambient temperature for 2 hours. The reaction was diluted with water, stirred for 1 hour and then extracted with ethyl acetate, dried over sodium sulfte and concentrated under reduced pressure give a 6-bromo-7-fluorochroman as the major product in a 3:1 mixture of regioisomers as a colorless oil (4.05 g). This material was used in the next step without further purification. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm=7.19 (d, J=7.8 Hz, 1 H), 6.59 (d, J=10.0 Hz, 1 H), 4.19-4.16 (m, 2 H), 2.74 (t, J=6.5 Hz, 2 H), 2.04-1.95 (m, 2 H); LCMS (m/z) ES+=230 (M−1).

reactant | 7-fluorochroman | 29.0 mmol, 4.42 g | FC1=CC=C2CCCOC2=C1 | C9H9FO
reactant | NBS | 29 mmol, 5.16 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-bromo-7-fluorochroman | BrC=1C=C2CCCOC2=CC1F | C9H8BrFO
